datasets/10k__Tet_Int.csv
SMILES Labelled
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C([H])[CH](C)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C([H])C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C([H])C(C8=CC=CC=C8)[O]2.C[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(O)C(C)C([H])C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C([H])C(C)C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][NH+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(CC)[NH][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)C1=CC=CC=C1)CCCCCC>>CN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)C1=CC=CC=C1)[O-:10])CCCCCC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)C)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1CC)C)CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10](C(C)C(C)[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(CC)C(C)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(CC)C(C)[O]1 10=20;20,21=21"
"[H][NH:10]C([H])C(C)[NH][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C)CC)CC.[O-:21]CCCCCC>>CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CC)CC 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])CCCCCC.[O-:21]CC>>CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)[H])CCCCCC 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])[H])C>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)[H])C.[O-:21][H] 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1C)C)CCCCCC.[O-:21]CC>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21]CC)C)CCCCCC 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)CCCCCC)[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)CCCCCC)[H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.[H][O:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[O]C(C7=CC=CC=C7)C([H])[NH]1 10=20;20,21=21"
"[H][S:10]C([H])C([H])C(C)[S][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C(C)[S]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)CC)CC>>CCCCCCC1C(C(O[C:20](=[O:10])N1[H])CC)CC.[O-:21]C 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)CCCCCC)CCCCCC>>CCN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)CC)C>>CCN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)CC)[O-:10])C 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S]C(C)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O]C(CC)C(CC)[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][H])[O]C(CC)C(CC)[O]1 10=20;20,21=21"
"[O:20]=[C:21](OC1=CC=CC=C1)OC.[H][O:10][K]>>[H][O+:10]([K])[C:21]([O-:20])(OC1=CC=CC=C1)OC 10=21;21,20=20"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C)C([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C)C([H])[NH]2.C[NH:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(C)C(O)C(O)C([H])C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)C([H])C(O)C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
